US05563142
1-[Benzyloxycarbonyl]-4-[3-nitro-2-pyridinyl]piperazine
1-(3-Nitro-2-pyridinyl)piperazine is dissolved in 175 ml of methylene chloride and cooled to 0°. Then pyridine is added followed by benzylchloroformate (16.5 ml). The reaction is stirred 1.5 hr, then poured into saturated aqueous sodium bicarbonate and extracted with chloroform, dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound, NMR (300 MHz, CDCl3) 8.34, 8.15, 7.38-7.32, 6.81, 5.17, 3.65 and 3.45 δ.

reactant | 1-(3-Nitro-2-pyridinyl)piperazine | [N+](=O)([O-])C=1C(=NC=CC1)N1CCNCC1 | C9H12N4O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzylchloroformate | 16.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
product | 1-[Benzyloxycarbonyl]-4-[3-nitro-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-] | C17H18N4O4
